US09388189B2
(S)-2-(1-((6-Amino-5-(1-((4-hydroxyphenyl)sulfonyl)-1H-indol-6-yl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((6-Amino-5-(1-((4-methoxyphenyl)sulfonyl)-1H-indol-6-yl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (100 mg, 0.14 mmol) was dissolved in dichloromethane (1 ml). A solution of boron tribromide (1M in dichloromethane, 952 μL, 0.95 mmol) was added dropwise and the reaction was stirred at room temperature overnight. A solution of boron tribromide (1M in dichloromethane, 1.4 ml, 1.4 mmol) was added dropwise and the reaction was heated at 60° C. overnight. The mixture was diluted with ethyl acetate and washed with a 4% solution of sodium bicarbonate, water, brine and dried over sodium sulphate, filtered and evaporated under reduced pressure. The product was purified by reverse phase chromatography using SP1® Purification System to give 53 mg (61% yield) of the title compound. Purity 99%. LRMS (m/z): 633 (M+1)+.

reactant | (S)-2-(1-((6-Amino-5-(1-((4-methoxyphenyl)sulfonyl)-1H-indol-6-yl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.14 mmol, 100 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)C2=CC=C1C=CN(C1=C2)S(=O)(=O)C2=CC=C(C=C2)OC | C34H30N8O4S
reactant | boron tribromide | 0.95 mmol, 1M, 952 μL | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 1.4 mmol, 1M, 1.4 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-2-(1-((6-Amino-5-(1-((4-hydroxyphenyl)sulfonyl)-1H-indol-6-yl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 53 mg, 61% yield | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)C2=CC=C1C=CN(C1=C2)S(=O)(=O)C2=CC=C(C=C2)O | C33H28N8O4S
